US07592373B2
4.276.a. 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]piperidine-4-carboxylic acid amide
Prepared analogously to Example 1.1.c. from 1 g (3.622 mmol) of 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene and 1.4 g (10.87 mmol) of piperidine-4-carboxylic acid amide. Yield: 1.05 g (90% of theory); C15H21N3O5 (M=323.34); calc.: molecular ion peak (M+H)+: 324; found: molecular ion peak (M+H)+: 324; Rf value: 0.4 (silica gel, dichloromethane/methanol/ammonia (9:1:0.1)).

reactant | 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene | 3.622 mmol, 1 g | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
reactant | piperidine-4-carboxylic acid amide | 10.87 mmol, 1.4 g | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 1-[2-(2-methoxy-4-nitrophenoxy)ethyl]piperidine-4-carboxylic acid amide | COC1=C(OCCN2CCC(CC2)C(=O)N)C=CC(=C1)[N+](=O)[O-] | C15H21N3O5
